US07741327B2
To a solution of 4,4,4-trifluoro-butyramidine hydrochloride (2.1 g, 0.012 mol) in methanol (10 mL) at 0° C. under vigorous stirring was added dropwise bromine (0.61 mL, 0.012 mol) and a 5.4M sodium methylate solution in methanol (4.4 mL, 0.012 mol) simultaneously over 30 min maintaining a slight bromine excess by color. To the resulting nearly colorless suspension was added dropwise a solution of potassium thiocyanate (1.16 g, 0.012 mol) in methanol (10 mL) over 10 min at 0-10° C. The resulting mixture was stirred for 2 h at 0-10° C. and filtered. The isolated material was washed with methanol and dried which afforded a brown solid which was purified by flash chromatography (150 g silica gel 60 5% methanol/diethyl ether) and crystallized from diethyl ether/hexanes which afforded 3-(3,3,3-trifluoro-propyl)-[1,2,4]thiadiazol-5-ylamine (1.43 g, 61%) as a brown oil.

reactant | 4,4,4-trifluoro-butyramidine hydrochloride | 0.012 mol, 2.1 g | Cl.FC(CCC(=N)N)(F)F
reactant | bromine | 0.012 mol, 0.61 mL | BrBr | Br2
reactant | sodium methylate | 5.4M | C[O-].[Na+]
reactant | potassium thiocyanate | 0.012 mol, 1.16 g | [S-]C#N.[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 0.012 mol, 4.4 mL | CO | CH4O
product | 3-(3,3,3-trifluoro-propyl)-[1,2,4]thiadiazol-5-ylamine | 1.43 g, 61% | FC(CCC1=NSC(=N1)N)(F)F | C5H6F3N3S
